US07674822B2
1-Carboxymethoxy-6-cyclohexylamino-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid
To a solution of 6-cyclohexylamino-1-ethoxycarbonylmethoxy-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid methyl ester (23 mg, 0.05 mmol) in THF/H20 was added 2.OM aq. LiOH solution (0.125 mL, 0.25 mmol) at room temperature. After stirring at this tempterature overnight, the reaction mixture was concentrated, and acidified with 10% HCl. The product was collected by filtration and washed with water as a white solid (13.2 mg, 63%).

reactant | 6-cyclohexylamino-1-ethoxycarbonylmethoxy-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid methyl ester | 0.05 mmol, 23 mg | COC(=O)C1=C(C2=C(C=3C=CC(=CC3S2)NC2CCCCC2)S1)OCC(=O)OCC | C22H25NO5S2
reactant | LiOH | 0.25 mmol, 0.125 mL | [Li+].[OH-]
solvent | THF | C1CCOC1 | C4H8O
product | 1-Carboxymethoxy-6-cyclohexylamino-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid | C(=O)(O)COC1=C(SC2=C1SC=1C=C(C=CC21)NC2CCCCC2)C(=O)O | C19H19NO5S2
